US07994423B2
5,6,11,12,17,18-Hexaazatrinaphthylene [BK2—73].
The title compound was synthesized according to a modified literature procedure.30 Hexaketocyclohexane octahydrate (10.0 g, 32.0 mmol) and 1,2-phenylenediamine SM17 (10.4 g, 96.0 mmol) were refluxed in 500 ml of glacial acetic acid:ethanol (1:1) at 140° C. for 24 hours. The reaction mixture was then filtered and washed with ca. 200 ml of hot glacial acid. The solid was then refluxed with 200 ml of 30% nitric acid for 3 hours at 140° C. The yellow solid (12.6 g) was filtered and dried under vacuum. An amount 2.0 g was sublimed at high vacuum (3.2×10−6 torr and t=350° C.) to yield 0.77 g (estimated extrapolated yield=40%) of yellow solid. The yield could be increased with prolonged sublimation time. This compound is slightly soluble in CHCl3. 1H NMR (CDCl3, 300 MHz) δ 8.73-8.69 (dd, J=6.6 Hz; J2=3.6 Hz, 6H), 8.08-8.043 (m, 6H). 13C NMR (CDCl3, 75 MHz), 143.57, 132.30, 130.65, 119.05, 98.58. Anal. Calcd. for C24H12N6: C, 74.99; H, 3.15; N, 21.86. Found: C, 74.76; H, 3.11; N, 21.66.

reactant | Hexaketocyclohexane octahydrate | 32.0 mmol, 10.0 g | O.O.O.O.O.O.O.O.O=C1C(C(C(C(C1=O)=O)=O)=O)=O
reactant | 1,2-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | acetic acid ethanol | 500 ml | C(C)(=O)O.C(C)O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5,6,11,12,17,18-Hexaazatrinaphthylene | yield=40% | C1=CC=CC2=NC=3C4=NC5=CC=CC=C5N=C4C4=NC5=CC=CC=C5N=C4C3N=C12 | C24H12N6
